US04055596
Preparation of 7-{N-[4-Hydroxy-5-(4-fluorophenoxy)pentyl]-methanesulfonamide∓heptanoic Acid
A solution composed of ethyl 7-{N-[4-hydroxy-5-(4-fluorophenoxy)pentyl]methanesulfonamido}heptanoate (4.7 g., 0.11 mole), sodium hydroxide (1.0 g.), water (13 ml.) and ethanol (130 ml.) is kept at room temperature for 20 hours. Most of the solvent is removed in vacuo, water (150 ml.) is added and the solution extracted with ether (100 ml.). The aqueous layer is acidified (hydrochloric acid) and extracted with ethyl acetate (2 × 100 ml.). The organic layer is dried over sodium sulfate then concentrated in vacuo to obtain the subject compound. The yield is 3.7 g. (84%) of heavy oil.

reactant | ethyl 7-{N-[4-hydroxy-5-(4-fluorophenoxy)pentyl]methanesulfonamido}heptanoate | 0.11 mole, 4.7 g | OC(CCCN(S(=O)(=O)C)CCCCCCC(=O)OCC)COC1=CC=C(C=C1)F | C21H34FNO6S
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | water | 13 ml | O | H2O
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | N-[4-Hydroxy-5-(4-fluorophenoxy)pentyl]-methanesulfonamide | OC(CCCNS(=O)(=O)C)COC1=CC=C(C=C1)F | C12H18FNO4S
